US09035058B2
Synthesis of 1,1′-(hexane-1,6-diyl)bis(1-methylpiperidin-1-ium) bromide
1-methylpiperidine (˜73.3 g), 1,4-dibromohexane (˜82 g), and dimethylformamide (˜250 mL) were combined and stirred at room temperature for about 24 hours. The solid product was filtered and then washed with diethyl ether (˜750 mL). After drying the product (˜106 g, ˜71%) was confirmed to be 1,1′-(hexane-1,6-diyl)bis(1-methylpiperidin-1-ium) bromide by 1H NMR.

reactant | 1-methylpiperidine | ˜73.3 g | CN1CCCCC1 | C6H13N
reactant | 1,4-dibromohexane | ˜82 g | BrCCCC(CC)Br | C6H12Br2
solvent | dimethylformamide | ˜250 mL | CN(C=O)C | C3H7NO
product | 1,1′-(hexane-1,6-diyl)bis(1-methylpiperidin-1-ium) bromide | [Br-].C(CCCCC[N+]1(CCCCC1)C)[N+]1(CCCCC1)C.[Br-] | InChI=1S/C18H38N2.2BrH/c1-19(15-9-5-10-16-19)13-7-3-4-8-14-20(2)17-11-6-12-18-20;;/h3-18H2,1-2H3;2*1H/q+2;;/p-2
